US07786108B2
Synthesis of (S)-[2-(2-Amino-ethyl)-2H-tetrazol-5-yl]-(3,5-bis-trifluoromethyl-benzyl)-(1-cyclopropylmethyl-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-amine hydrochloride
Add 1.0 N HCl in ethyl ether (0.0500 mL) to a solution of (S)-[2-(2-Amino-ethyl)-2H-tetrazol-5-yl]-(3,5-bis-trifluoromethyl-benzyl)-(1-cyclopropylmethyl-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-amine (0.0300 mg, 0.0472 mmole) in ethyl ether (0.500 mL), stir for 10 minutes. Evaporate the solvent to provide the title compound as white powder. MS (ES+): 636 (M+H).

reactant | HCl | 1.0 N | Cl | ClH
reactant | (S)-[2-(2-Amino-ethyl)-2H-tetrazol-5-yl]-(3,5-bis-trifluoromethyl-benzyl)-(1-cyclopropylmethyl-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-amine | 0.0472 mmole, 0.0300 mg | NCCN1N=C(N=N1)N([C@@H]1C2=C(N(CCC1)CC1CC1)C=C(C(=C2)C)C(F)(F)F)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C28H30F9N7
solvent | ethyl ether | 0.0500 mL | C(C)OCC | C4H10O
solvent | ethyl ether | 0.500 mL | C(C)OCC | C4H10O
product | (S)-[2-(2-Amino-ethyl)-2H-tetrazol-5-yl]-(3,5-bis-trifluoromethyl-benzyl)-(1-cyclopropylmethyl-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-amine hydrochloride | Cl.NCCN1N=C(N=N1)N([C@@H]1C2=C(N(CCC1)CC1CC1)C=C(C(=C2)C)C(F)(F)F)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | InChI=1S/C28H30F9N7.ClH/c1-16-9-21-23(3-2-7-42(14-17-4-5-17)24(21)13-22(16)28(35,36)37)43(25-39-41-44(40-25)8-6-38)15-18-10-19(26(29,30)31)12-20(11-18)27(32,33)34;/h9-13,17,23H,2-8,14-15,38H2,1H3;1H/t23-;/m0./s1
